US09126998B2
rac-4,4,4-Trifluorobutane-1,2-diamine dihydrochloride
130 mg of rac-benzyl (1-amino-4,4,4-trifluorobutan-2-yl)carbamate trifluoroacetate (Example 147 A, 0.33 mmol, 1 equivalent) were initially charged in 8.4 ml of methanol, under argon, 35 mg (0.03 mmol) of 10% palladium on activated carbon were added and the mixture was hydrogenated at RT and atmospheric pressure overnight. The mixture was then filtered through a Millipore® filter, 0.33 ml of 2 N hydrochloric acid in diethyl ether (0.66 mmol, 2 equivalents) was added and the mixture was concentrated. This gave 72 mg (100% of theory) of the title compound.

reactant | rac-benzyl (1-amino-4,4,4-trifluorobutan-2-yl)carbamate trifluoroacetate | 130 mg | FC(C(=O)O)(F)F.NCC(CC(F)(F)F)NC(OCC1=CC=CC=C1)=O
reactant | hydrochloric acid | 2 N, 0.33 ml | Cl | ClH
reactant | diethyl ether | 0.66 mmol, 2 equivalents | C(C)OCC | C4H10O
solvent | methanol | 8.4 ml | CO | CH4O
catalyst | palladium on activated carbon | 0.03 mmol, 35 mg | [Pd] | Pd
product | rac-4,4,4-Trifluorobutane-1,2-diamine dihydrochloride | Cl.Cl.FC(CC(CN)N)(F)F | InChI=1S/C4H9F3N2.2ClH/c5-4(6,7)1-3(9)2-8;;/h3H,1-2,8-9H2;2*1H
